US09331285B2
(2) Synthesis of N-(4-cyanophenyl)-N-(4-(trimethylsilyl)phenyl)acetamide
Under a flow of argon, in a 1 L-recovery flask, 27 g of N-(4-(trimethylsilyl)phenyl)acetamide, 30 g of 4-bromobenzonitrile, 6.3 g of copper (I) iodide, 45.6 g of potassium carbonate, and 412 mL of xylene were placed. After stirring, 7.1 mL of N,N′-dimethylethylenediamine was added. The resultant was heated and stirred at reflux for 18 hours.

reactant | N-(4-(trimethylsilyl)phenyl)acetamide | 27 g | C[Si](C1=CC=C(C=C1)NC(C)=O)(C)C | C11H17NOSi
reactant | 4-bromobenzonitrile | 30 g | BrC1=CC=C(C#N)C=C1 | C7H4BrN
reactant | potassium carbonate | 45.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | N,N′-dimethylethylenediamine | 7.1 mL | CNCCNC | C4H12N2
catalyst | copper (I) iodide | 6.3 g | [Cu]I
solvent | xylene | 412 mL | C=1(C(=CC=CC1)C)C | C8H10
product | N-(4-cyanophenyl)-N-(4-(trimethylsilyl)phenyl)acetamide | C(#N)C1=CC=C(C=C1)N(C(C)=O)C1=CC=C(C=C1)[Si](C)(C)C | C18H20N2OSi
